US07829665B2
(2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylate (0.18 g, 0.27 mmol) in THF (2 mL) was added 0.1 N NaOH solution (6.64 ml, 0.62 mmol) in H2O. The reaction was stirred at rt for 26 hr. Water (5 mL) and ether (15 mL) was added. The aqueous layer was separated and acidified by saturated potassium hydrogen sulfate solution to pH=2˜3. The aqueous layer was extracted with EA (2×15 mL), washed with brine and dried over sodium sulfate. After removal of solvent, it gave (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylic acid as white solid (0.15 g, 92%). MS: Calcd.: 630; Found: [M+H]+ 631. 1H NMR (400 MHz, d6-DMSO) δ12.29 (s, 1H), 8.59 (d, J=13.2 Hz, 1H), 7.36 (m, 1H), 7.10-7.20 (m, 3H), 5.59 (m, 1H), 5.50 (m, 1H), 5.30 (s, 1H), 4.66 (s, 4H), 4.51 (m, 1H), 4.41 (m, 1H), 4.23 (m, 1H), 3.94 (m, 1H), 3.74 (m, 1H), 3.50 (m, 1H), 3.37 (m, 2H), 2.35 (m, 1H), 1.78 (m, 2H), 1.51 (m, 2H), 1.37 (m, 2H), 1.24 (m, 2H), 1.08 & 1.09 (s, 9H).

reactant | (2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylate | 0.27 mmol, 0.18 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N2[C@H](C(N[C@]3([C@H](\C=C/COCCC1)C3)C(=O)OCC)=O)C[C@H](C2)OC(=O)N2CC3=CC=CC(=C3C2)F)=O | C33H43FN4O9
reactant | NaOH | 0.62 mmol, 0.1 N, 6.64 ml | [OH-].[Na+]
reactant | ether | 15 mL | CCOCC | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | Water | 5 mL | O | H2O
product | (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylic acid | 0.15 g, 92% | C(C)(C)(C)OC(=O)N[C@@H]1C(N2[C@H](C(N[C@]3([C@H](\C=C/COCCC1)C3)C(=O)O)=O)C[C@H](C2)OC(=O)N2CC3=CC=CC(=C3C2)F)=O | C31H39FN4O9
